US08198267B2
1-Benzyl-3,5-dichloropyrazin-2(1H)-one
To a solution of 92 g (725 mmol) of oxalyl chloride in 188 ml of 1,2-dichlorobenzene are added 26.5 g (145 mmol) of N-benzylaminoacetonitrile. The solution is heated to 60° C. for 20 min and to 90° C. for 6 h. It is allowed to cool and left at this temperature for 15 h. The solvent is removed under reduced pressure and the residue is eluted with silica gel and with a gradient from cyclohexane to 5:1 cyclohexane/ethyl acetate. The product fractions are combined and concentrated to dryness under reduced pressure. The residue is crystallized from diethyl ether. This affords 22 g (60% of theory) of the desired compound.

reactant | oxalyl chloride | 725 mmol, 92 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-benzylaminoacetonitrile | 145 mmol, 26.5 g | C1=CC=C(C=C1)CNCC#N.Cl
solvent | 1,2-dichlorobenzene | 188 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-Benzyl-3,5-dichloropyrazin-2(1H)-one | C(C1=CC=CC=C1)N1C(C(=NC(=C1)Cl)Cl)=O | C11H8Cl2N2O
